US06838463B2
In 10 ml of N,N-dimethylformamide were dissolved 401 mg of 4-chloro-2-methyl-6-(2,3-difluorophenyl)pyrimidine and 152 mg of 2-butyn-1-ol, to which 87 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 11 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 395 mg of 2-methyl-4-(2,3-difluorophenyl)-6-(2-butynyloxy)pyrimidine (the present compound (162)).

reactant | 4-chloro-2-methyl-6-(2,3-difluorophenyl)pyrimidine | 401 mg | ClC1=NC(=NC(=C1)C1=C(C(=CC=C1)F)F)C | C11H7ClF2N2
reactant | 2-butyn-1-ol | 152 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-4-(2,3-difluorophenyl)-6-(2-butynyloxy)pyrimidine | 395 mg | CC1=NC(=CC(=N1)C1=C(C(=CC=C1)F)F)OCC#CC | C15H12F2N2O
